US09238639B2
C) Methyl(4-chloro-6-hydroxy-2-methyl-1-benzothiophen-3-yl)acetate
To a solution of 1-dodecanethiol (3.38 mL) in toluene (5.0 mL) was added aluminum chloride (627 mg) at 0° C. After being stirred at 0° C. for 50 min, to the solution was added a mixture of methyl(4-chloro-6-methoxy-2-methyl-1-benzothiophen-3-yl)acetate (670 mg) in toluene (10 mL) at 0° C. The mixture was stirred at 80° C. for 14 h. To the suspension was added aluminum chloride (627 mg) again. The mixture was stirred at 80° C. for 5 h. The mixture was quenched with water and 1N HCl, and extracted with EtOAc. The organic layer was washed with brine, dried over MgSO4, and concentrated in vacuo. The residue was dissolved in MeOH (2.0 mL), and to the solution was added conc.H2SO4 (0.025 mL). The mixture was stirred at 80° C. for 2 h. The mixture was concentrated and the residue was neutralized with saturated aqueous NaHCO3 and extracted with EtOAc. The combined organic layer was washed with brine, dried over MgSO4, and concentrated in vacuo. The solid was washed with hexane to give the title compound (557.8 mg).

reactant | 1-dodecanethiol | 3.38 mL | C(CCCCCCCCCCC)S | C12H26S
reactant | aluminum chloride | 627 mg | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | methyl(4-chloro-6-methoxy-2-methyl-1-benzothiophen-3-yl)acetate | 670 mg | COC(CC1=C(SC2=C1C(=CC(=C2)OC)Cl)C)=O | C13H13ClO3S
reactant | aluminum chloride | 627 mg | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | toluene | 5.0 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | Methyl(4-chloro-6-hydroxy-2-methyl-1-benzothiophen-3-yl)acetate | 557.8 mg | COC(CC1=C(SC2=C1C(=CC(=C2)O)Cl)C)=O | C12H11ClO3S
